US06538004B2
4-(3-bromo-4-fluorophenyl)-4,7,8,9-tetrahydro-1H-pyrazolo[3,4-b]quinoline-3,5(2H,6H)-dione
5-Amino-1,2-dihydropyrazol-3-one (0.15 g, 1.5 mmol), 3-bromo-4-fluorobenzaldehyde (0.3 g, 1.5 mmol), and 1,3-cyclohexanedione (0.17 g, 1.5 mmol) were processed as described in Example 2 to provide 0.14 g of the title compound. 1H NMR (300 MHz, DMSO-d6)δ 1.85 (m, 2H), 2.18 (m, 2H), 2.55 (m, 2H), 4.94 (s, 1H), 7.12 (m, 1H), 7.18 (t, 1H), 7.4 (dd, 1H), 9.75 (s, 1H), 10.35 (bs, 1H), 11.33 (bs, 1H); MS (ESI−) m/z 376 (M−H:)− Anal. Calcd for C16H13N3BrFO2: C, 50.79;H, 3.44; N, 1 1.11. Found: C, 50.45;H, 3.42; N, 11.33.

reactant | 5-Amino-1,2-dihydropyrazol-3-one | 1.5 mmol, 0.15 g | NC1=CC(NN1)=O | C3H5N3O
reactant | 3-bromo-4-fluorobenzaldehyde | 1.5 mmol, 0.3 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 1,3-cyclohexanedione | 1.5 mmol, 0.17 g | C1(CC(CCC1)=O)=O | C6H8O2
product | 4-(3-bromo-4-fluorophenyl)-4,7,8,9-tetrahydro-1H-pyrazolo[3,4-b]quinoline-3,5(2H,6H)-dione | 0.14 g | BrC=1C=C(C=CC1F)C1C2=C(NC=3CCCC(C13)=O)NNC2=O | C16H13BrFN3O2
